US06875761B2
(281-1) 6-(4-Bromophenyl)-5H-thieno[3,2-c]pyridine-4-one
6-(4-Bromophenyl)-4-(4-ethylpiperazin-1-yl)thieno[3,2-c]pyridine (0.96 g) was heated under reflux in the presence of bistriphenylphosphine dichloride (48 mg), triphenylphosphine (174 mg) and cuprous iodide (46 mg), in 2-methyl-3-butyn-2-ol (0.26 g), pyridine (15 ml) and triethylamine (30 ml) for 1.5 hr. The reaction solution was evaporated, and the resulting residue was purified by NH-silica gel column chromatography (ethyl acetate/hexane system), to give 0.80 g of the title compound as a pale yellow oil.

reactant | 6-(4-Bromophenyl)-4-(4-ethylpiperazin-1-yl)thieno[3,2-c]pyridine | 0.96 g | BrC1=CC=C(C=C1)C1=CC2=C(C(=N1)N1CCN(CC1)CC)C=CS2 | C19H20BrN3S
reactant | triphenylphosphine | 174 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
reactant | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
reactant | 2-methyl-3-butyn-2-ol | 0.26 g | CC(C)(C#C)O | C5H8O
product | 6-(4-Bromophenyl)-5H-thieno[3,2-c]pyridine-4-one | 0.80 g | BrC1=CC=C(C=C1)C1=CC2=C(C(N1)=O)C=CS2 | C13H8BrNOS
